### ISSUE TITLE
`attribute [-simp]` is not persistent

### ISSUE THREAD

**Issue by JLimperg** [leanprover/lean4#2119]
When a definition is removed from the `simp` set via `attribute [-simp]`, it is only removed for the current file. I would have expected it to remain removed in dependent files. MWE:

`Test.lean`:
```lean
structure A : Prop where
  p : False

theorem test1 : A = False := by
  fail_if_success solve | simp -- fails as expected
  sorry

@[simp]
theorem A_def : A ↔ False :=
  ⟨λ ⟨p⟩ => p, λ p => ⟨p⟩⟩

theorem test2 : A = False := by
  simp -- succeeds as expected

attribute [-simp] A_def

theorem test3 : A = False := by
  fail_if_success solve | simp -- fails as expected
  sorry
```

`Test2.lean`:
```lean
import Test

theorem test4 : A = False := by
  simp -- should fail but succeeds
```

I believe this is because erasing a `simp` theorem removes it from the `SimpTheorems`, but does not remove it from the `ScopedEnvExtension`'s `newEntries` field, which contains the `simp` theorems that are persisted to the `olean` file.

**Comment by gebner** [comment]
That's on purpose.  Although it would probably be better to require a `local` keywords in there somewhere.

In your example you could just write `@[local simp]`.

**Comment by JLimperg** [comment]
Does this mean there is no way to persistently remove a `simp` theorem? And is this expected behaviour for all erasable attributes?

**Comment by digama0** [comment]
Yes. Erasing attributes is troublesome because it makes imports order-dependent and potentially conflicting.

**Comment by JLimperg** [comment]
Okay, that's fair. Thank you both!
